US06211215B1
Methanol (1.5 ml) in tetrahydrofuran (2 ml) was added dropwise to a stirred and refluxed mixture of ethyl 4-(2-thienyl)-2-thiazolecarboxylate (1.36 g), sodium borohydride (0.35 g) and tetrahydrofuran (15 ml). After refluxing for 1 h, the reaction mixture was poured into water, acidified with 1N HCl and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated to give 4-(2-thienyl)-2-thiazolylmethanol (0.92 g, 82%). Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 113-114° C.

reactant | Methanol | 1.5 ml | CO | CH4O
reactant | ethyl 4-(2-thienyl)-2-thiazolecarboxylate | 1.36 g | S1C(=CC=C1)C=1N=C(SC1)C(=O)OCC | C10H9NO2S2
reactant | sodium borohydride | 0.35 g | [BH4-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-(2-thienyl)-2-thiazolylmethanol | 0.92 g, 82% | S1C(=CC=C1)C=1N=C(SC1)CO | C8H7NOS2
